datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[O:12][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCC[O+:12]=[CH:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CCCC[O:72][C:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:33][C:22](=[CH:21][CH2:20][C:10]1=[N+:61](C2=C(C)C=C(C)C=C2C)CC[N:71]1C1=C(C)C=C(C)C=C1C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20;20,21=21"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CCC[O:62][Si:11](C)(C)[H:10]>>CC(C)(C1=CC=CC=C1)[O-:21].CCC[O:62][Si+:11](C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CC[O:33][C:22](=[N:21][N:20]([NH+:10]1CCC[C@H]1C(N=[N+]=[N-])(C1=CC=CC=C1)C1=CC=CC=C1)[C:41](=[O:42])[O:43]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH2:10]C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[C:11]([CH:10]([CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[N+:61]#[N:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[O:61][P:10]([O:71]CCCC)[O:81]CCCC.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CCCC[O:61][P+:10]([Cl:20])([O:71]CCCC)[O:81]CCCC.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
"CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>CCCC[C:10]([F:20])([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10=20;20,21=21"
"CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CO[C:10]1([CH:20]([CH:21]=[C:22](C2=[N+](C)C=CN2C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]C[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>Cl[C:20]1([CH:10]2C[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1>>CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)S1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
